US09023847B2
67. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (3-amino-propyl)-amide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide using 3-(Boc-amino)-propylamine instead of tert-butyl-2-amino ethyl carbamate. LCMS (ESI) 316 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 12.47 (1H, br. s.) 10.84 (1H, s) 8.66 (1H, t, J=5.56 Hz) 8.04 (1H, d, J=6.83 Hz) 7.87 (3H, d, J=5.27 Hz) 7.36-7.42 (1H, m) 7.30 (1H, d, J=5.27 Hz) 6.81 (1H, br. s.) 6.67 (1H, d, J=7.03 Hz) 3.23 (2H, q, J=6.44 Hz) 2.66-2.82 (2H, m) 1.67-1.81 (2H, m)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide | NCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C14H15N5OS
reactant | 3-(Boc-amino)-propylamine | C(=O)(OC(C)(C)C)NCCCN | C8H18N2O2
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (3-amino-propyl)-amide | NCCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C15H17N5OS
